US08114902B2
[1,1-bis(hydroxymethyl)-3-(4-bromo-2-chlorophenyl)propyl]carbamic acid tert-butyl ester
Diethyl 2-[2-(4-bromo-2-chlorophenyl)ethyl]-2-[(tert-butoxycarbonyl)amino]malonate (217 g) of Reference Example 19 was dissolved in a mixed solution of ethanol (2170 mL), tetrahydrofuran (543 mL) and water (1085 mL), calcium chloride (97.7 g) was added at room temperature, and the mixture was stirred for 20 min. To the solution was added sodium borohydride (66.6 g) by portions at 0° C., and the mixture was stirred at the same temperature for 1 hr and further stirred at room temperature for 14 hr. 1M Hydrochloric acid (1085 mL) was added dropwise to the reaction mixture. The reaction solvent was evaporated under reduced pressure. 0.1M Hydrochloric acid (2713 mL) and ethyl acetate (3800 mL) were added to the residue. The organic layer was partitioned and extracted, and the extract was washed with 25% brine, and dried over anhydrous magnesium sulfate. The solvent was evaporated under reduced pressure to give the title compound (175 g) as white crystals.

reactant | Diethyl 2-[2-(4-bromo-2-chlorophenyl)ethyl]-2-[(tert-butoxycarbonyl)amino]malonate | 217 g | BrC1=CC(=C(C=C1)CCC(C(=O)OCC)(C(=O)OCC)NC(=O)OC(C)(C)C)Cl | C20H27BrClNO6
reactant | calcium chloride | 97.7 g | [Cl-].[Ca+2].[Cl-]
reactant | sodium borohydride | 66.6 g | [BH4-].[Na+]
reactant | Hydrochloric acid | 1M, 1085 mL | Cl | ClH
solvent | ethanol | 2170 mL | C(C)O | C2H6O
solvent | tetrahydrofuran | 543 mL | O1CCCC1 | C4H8O
solvent | water | 1085 mL | O | H2O
product | [1,1-bis(hydroxymethyl)-3-(4-bromo-2-chlorophenyl)propyl]carbamic acid tert-butyl ester | 175 g | C(C)(C)(C)OC(NC(CCC1=C(C=C(C=C1)Br)Cl)(CO)CO)=O | C16H23BrClNO4
